US05095013
(E)-3-[(2S,4S)-N-Allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]acrylamide
To a solution of dimethyl sulfoxide (49.9 ml, 703 mmol) in methylene chloride (1.1 l) was added oxalyl chloride (32.1 ml, 376 mmol) at -70° C., and the reaction mixture stirred for 30 minutes, treated with a pre-cooled (-70° C.) solution of (2S,4S)-N-allyloxycarbonyl-2-hydroxymethyl-4-tritylthiopyrrolidine(115.3 g, 251 mmol) in methylene chloride (400 ml), and stirred for 30 minutes. The mixture was treated with triethylamine (174.9 ml, 1.25 mol), stirred for 30 minutes, and stirred for additional 30 minutes after removing an ice-bath. The mixture was poured into water (500 ml), the organic layer washed with lM sodium dihydrogen phosphate (500 ml) and saturated sodium bicarbonate, dried over anhydrous sodium sulfate, and concentrated in vacuo. A solution of the obtained residue and 2-(diethylphosphono)acetamide (63.6 g, 326 mmol) in tetrahydrofuran (1.6 l) was treated with 60% sodium hydride (11 g, 275 mmol) under ice-cooling, and the reaction mixture stirred for 30 minutes, and concentrated. The residue was dissolved in ethyl acetate (1.5 l), washed successively with water (1 l and 500 ml) and saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated. The residual solid was collected by filtration after addition of diisopropyl ether (600 ml), recrystallized from a mixture of ethyl acetate (700 ml) and hexane (700 ml) to give the title compound (79.2 g), and the mother liquor was purified by flash column chromatography on silica gel (Wakogel® C-300, 400 ml, elution with ethyl acetate) to give a second crop (combined weight 89.4 g, 71.5% total yield).

reactant | dimethyl sulfoxide | 703 mmol, 49.9 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 376 mmol, 32.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2S,4S)-N-allyloxycarbonyl-2-hydroxymethyl-4-tritylthiopyrrolidine | 251 mmol, 115.3 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C28H29NO3S
reactant | triethylamine | 1.25 mol, 174.9 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(diethylphosphono)acetamide | 326 mmol, 63.6 g | C(C)OP(=O)(OCC)CC(=O)N | C6H14NO4P
reactant | sodium hydride | 275 mmol, 11 g | [H-].[Na+]
solvent | methylene chloride | 1.1 l | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 1.6 l | O1CCCC1 | C4H8O
product | (E)-3-[(2S,4S)-N-Allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]acrylamide | 79.2 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C(=O)N | C30H30N2O3S
